US05576355
1,3-Dihydroxy-5,7-dimethyladamantane was synthesized in a similar manner as described for 1,3,5,7-tetrahydroadamantane. Into a 4-neck flask immersed in a cooling bath and equipped with a low-temperature condenser (-20° C.), an air-driven, well-sealed mechanical stirrer, a solid addition funnel, and a thermocouple, there were charged 4.5 grams, 1,3-dimethyladamantane (Aldrich, 99%+), 100 ml methylene chloride, 96 grams sodium bicarbonate, 100 ml double distilled water. Upon stirring and cooling the mixture to 0° C., 100 grams TFP were added and the temperature of the mixture went to 10° C. After the mixture was cooled down again to 0° C., 100 grams OXONE were added in the course of an hour. The reaction mixture was stirred at -5° C. for additional 20 hours (overnight). The TFP was recovered by distilling the reaction mixture at a pot temperature of 50° C. into a receiver immersed in DryIce/acetone. The remainder mixture was filtered by suction over Celite as a filter aid. The filtrate was yellow and contained two phases (aqueous and organic). It was rotavapped to dryness. The dry solid was extracted with ethanol and filtered. Crude product was obtained by evaporating off the ethanol which contained more than 95% 1,3-dihydroxy-5,7-dimethyladamantane. The brownish crude product was purified by crystallization from ethanol/methylene chloride mixture to a GC pure product with a molecular weight of 196 gram/mole (by GC-MS). Calculated for C12H20O2 :196.28 gram/mole

reactant | 1,3-dimethyladamantane | CC12CC3(CC(CC(C1)C3)C2)C | C12H20
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
reactant | sodium bicarbonate | 96 grams | C([O-])(O)=O.[Na+]
reactant | OXONE | 100 grams | OOS(=O)[O-].[K+]
solvent | water | O | H2O
product | 1,3-Dihydroxy-5,7-dimethyladamantane | OC12CC3(CC(CC(C1)(C3)C)(C2)C)O | C12H20O2
